US07594594B2
β-naphthyl methyl ether;
β-naphthyl ketone; benzyl acetone:mixture of hexahydro-4,7-methanoinden-5-yl propionate and hexahydro-4,7-methanoinden-6-yl propionate;4-(2,6,6-trimethyl-2-cyclohexen-1-yl)-3-methyl-3-buten-2-one; 3,7-dimethyl-2,6-nonadien-1-nitrile; dodecahydro-3a,6,6,9a-tetramethylnaphtho(2,1-b)furan; ethylene glycol cyclic ester of n-dodecanedioic acid; 1-cyclohexadecen-6-one; 1-cycloheptadecen-10-one; and corn mint oil.

reactant | β-naphthyl ketone | C1=C(C=CC2=CC=CC=C12)C(=O)C1=CC2=CC=CC=C2C=C1 | C21H14O
reactant | benzyl acetone | C(C1=CC=CC=C1)CC(C)=O | C10H12O
reactant | hexahydro-4,7-methanoinden-5-yl propionate | C(CC)(=O)OC1C2C3CCCC3=C(C1)C2 | C13H18O2
reactant | hexahydro-4,7-methanoinden-6-yl propionate | C(CC)(=O)OC1CC2C3CCCC3=C1C2 | C13H18O2
reactant | 4-(2,6,6-trimethyl-2-cyclohexen-1-yl)-3-methyl-3-buten-2-one | CC=1C(C(CCC1)(C)C)C=C(C(C)=O)C | C14H22O
reactant | 3,7-dimethyl-2,6-nonadien-1-nitrile | CC(=CC#N)CCC=C(CC)C | C11H17N
reactant | dodecahydro-3a,6,6,9a-tetramethylnaphtho(2,1-b)furan | CC12OCCC1C1(CCCC(C1CC2)(C)C)C | C16H28O
reactant | n-dodecanedioic acid | C(CCCCCCCCCCC(=O)O)(=O)O | C12H22O4
reactant | 1-cyclohexadecen-6-one | C1=CCCCC(CCCCCCCCCC1)=O | C16H28O
reactant | 1-cycloheptadecen-10-one | C1=CCCCCCCCC(CCCCCCC1)=O | C17H30O
product | β-naphthyl methyl ether | COC1=CC2=CC=CC=C2C=C1 | C11H10O
